US08957080B2
Synthesis of (R)-2-(3-(4-amino-3-(4-(2-fluorophenoxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carbonyl)-3-cyclopropylacrylonitrile
Into a 10 mL round-bottom flask, was placed a solution of 3-[(3R)-3-[4-amino-3-[4-(2-fluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile (60 mg, 0.13 mmol, 1.00 equiv) in methanol (10 mL), cyclopropanecarbaldehyde (50 mg, 0.71 mmol, 5.61 equiv), and piperidine (70 mg, 0.82 mmol, 6.46 equiv). The resulting solution was stirred for 30 min at room temperature and then concentrated under vacuum. The residue was loaded onto a silica gel column and eluted with dichloromethane/methanol (100:1) to give 0.015 g (23%) of the title compound as an off-white solid. LC-MS0: (ES, m/z): 524 [M+H]+. H-NMR (CD3OD, ppm) 8.270 (1H, s), 7.711 (2H, d), 7.316˜7.242 (4H, m), 7.149 (2H, d), 6.450 (1H, d), 4.872 (1H, s), 4.192 (1H, s), 3.966 (2H, d), 3.556-3.488 (1H, m), 2.392˜2.363 (1H, m), 2.253˜2.209 (2H, m), 1.951 (1H, s); 1.306-1.181 (3H, m); 0.918-0.793 (2H, m)

reactant | 3-[(3R)-3-[4-amino-3-[4-(2-fluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile | 0.13 mmol, 60 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=C(C=CC=C2)F)[C@H]2CN(CCC2)C(CC#N)=O | C25H22FN7O2
reactant | cyclopropanecarbaldehyde | 0.71 mmol, 50 mg, 5.61 equiv | C1(CC1)C=O | C4H6O
reactant | piperidine | 0.82 mmol, 70 mg, 6.46 equiv | N1CCCCC1 | C5H11N
solvent | methanol | 10 mL | CO | CH4O
product | (R)-2-(3-(4-amino-3-(4-(2-fluorophenoxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carbonyl)-3-cyclopropylacrylonitrile | 0.015 g, 23% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=C(C=CC=C2)F)[C@H]2CN(CCC2)C(=O)C(C#N)=CC2CC2 | C29H26FN7O2
